US06020345
Stage 2: 2-furan-2-yl-6-methylpyridine 1-oxide
4.90 g of metachioroperbenzoic acid are added in portions to a solution of 2.20 g of 2-furan-2-yl-6-methylpyridine (13.8 mmol) in 50 ml of chloroform cooled to 0° C. The mixture is stirred for 12 hours at room temperature and then the precipitate is removed by filtration and the filtrate is washed with a 5% aqueous solution of sodium bicarbonate. After drying over magnesium sulfate, filtration and evaporation, the title product is isolated by chromatography on a silica column (eluent: chloroform/methanol; 99:1). 1.25 g of a white powder are recovered.

reactant | metachioroperbenzoic acid | 4.90 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-furan-2-yl-6-methylpyridine | 13.8 mmol, 2.20 g | O1C(=CC=C1)C1=NC(=CC=C1)C | C10H9NO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-furan-2-yl-6-methylpyridine 1-oxide | Yield: 52% | O1C(=CC=C1)C1=[N+](C(=CC=C1)C)[O-] | C10H9NO2
